US07714009B2
2-Morpholin-4-yl-1,3-benzothiazol-7-amine
To 0.075 g (0.28 mmol) of 2-morpholin-4-yl-7-nitro-1,3-benzothiazole in 6 mL of tetrahydrofuran (THF) was added a pipet tip of Raney nickel. The reaction was kept under a hydrogen atmosphere via a balloon and stirred at room temperature for 5 h. The catalyst was removed via filtration and the filtrate was concentrated in vacuo. Purification by flash chromatography failed to provide clean B so the 0.022 g (33%) of material thus isolated was used without further purification.

reactant | 2-morpholin-4-yl-7-nitro-1,3-benzothiazole | 0.28 mmol, 0.075 g | N1(CCOCC1)C=1SC2=C(N1)C=CC=C2[N+](=O)[O-] | C11H11N3O3S
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-Morpholin-4-yl-1,3-benzothiazol-7-amine | 0.022 g, 33% | N1(CCOCC1)C=1SC2=C(N1)C=CC=C2N | C11H13N3OS
